US07884123B2
1 cm3 of ethanol, 1 cm3 of water and 0.29 g (5.1 mmol) of potassium hydroxide are successively added with stirring to a solution of 1.0 g (2.3 mmol) of ethyl 1-(1-ethoxyethyl)-3-[(thiophene-2-carbonyl)amino]-1H-thieno[2,3-c]pyrazole-5-carboxylate in 8 cm3 of tetrahydrofuran. The reaction medium is heated at a temperature in the region of 85° C. for 2 hours and is then cooled to a temperature in the region of 25° C. and concentrated to dryness under reduced pressure (2.7 kPa) at a temperature in the region of 40° C. The residue is dissolved in water and extracted with diethyl ether. The aqueous phase is acidified to a pH of about 5-6 by adding solid citric acid, and is then extracted three times with ethyl acetate. The organic phases are combined, dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure (2.7 kPa) at a temperature in the region of 40° C. 0.25 g of 1-(1-ethoxyethyl)-3-[(thiophene-2-carbonyl)amino]-1H-thieno[2,3-c]pyrazole-5-carboxylic acid is thus obtained in the form of a yellowish solid. Acidification of the aqueous phase to a pH of about 3-4, followed by the same treatment allows a second fraction of 0.25 g of 1-(1-ethoxyethyl)-3-[(thiophene-2-carbonyl)amino]-1H-thieno[2,3-c]pyrazole-5-carboxylic acid to be obtained in the form of a yellowish solid. (Rf=0.15, thin-layer chromatography on silica gel, eluent: dichloromethane/methanol (90/10 by volume)).

reactant | ethanol | 1 cm3 | C(C)O | C2H6O
reactant | water | 1 cm3 | O | H2O
reactant | potassium hydroxide | 5.1 mmol, 0.29 g | [OH-].[K+]
reactant | ethyl 1-(1-ethoxyethyl)-3-[(thiophene-2-carbonyl)amino]-1H-thieno[2,3-c]pyrazole-5-carboxylate | 2.3 mmol, 1.0 g | C(C)OC(C)N1N=C(C2=C1SC(=C2)C(=O)OCC)NC(=O)C=2SC=CC2 | C17H19N3O4S2
solvent | tetrahydrofuran | 8 cm3 | O1CCCC1 | C4H8O
product | 1-(1-ethoxyethyl)-3-[(thiophene-2-carbonyl)amino]-1H-thieno[2,3-c]pyrazole-5-carboxylic acid | 0.25 g | C(C)OC(C)N1N=C(C2=C1SC(=C2)C(=O)O)NC(=O)C=2SC=CC2 | C15H15N3O4S2
